US04636516
To a solution of 0.32 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-methylthioimidazole in 5 ml of chloroform was added 0.18 g of m-chloroperbenzoic acid at room temperature and the mixture was stirred for a day. The reaction mixture was washed with a diluted alkali solution, dried, concentrated under reduced pressure, and the residue thus formed was recrystallized from cyclohexane to provide 0.13 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-methylsulfinylimidazole.

reactant | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-methylthioimidazole | 0.32 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C(NC1)SC | C18H26N2OS
reactant | m-chloroperbenzoic acid | 0.18 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-methylsulfinylimidazole | 0.13 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C(NC1)S(=O)C | C18H26N2O2S
